US06846835B2
Synthesis of t-butyl 4-hydroxy-4-(hydroxymethyl)tetrahydropyridine-1(2H)-carboxylate
To a solution of 98 mg of t-butyl 4-methylenetetrahydropyridine-1(2H)-carboxylate in 2 ml of tetrahydrofuran-water (1:1), 88 mg of N-methyl morpholine-oxide and 0.1 ml of 2% osmium tetraoxide were added at 0° C., followed by 2 hours' stirring at the same temperature. Adding sodium sulfite to the reaction liquid, the reaction liquid was further stirred for 30 minutes, diluted with ethyl acetate, washed successively with water and saturated brine, and dried over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, 115 mg of the title compound was obtained.

reactant | t-butyl 4-methylenetetrahydropyridine-1(2H)-carboxylate | 98 mg | C=C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO2
reactant | N-methyl morpholine-oxide | 88 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | tetrahydrofuran water | 2 ml | O1CCCC1.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | osmium tetraoxide | 0.1 ml | [Os](=O)(=O)(=O)=O
product | t-butyl 4-hydroxy-4-(hydroxymethyl)tetrahydropyridine-1(2H)-carboxylate | 115 mg | OC1(CCN(CC1)C(=O)OC(C)(C)C)CO | C11H21NO4
